US04006144
8.5 g of 2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-one, 30 g of 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone and 100 ml of benzene are treated dropwise under an argon atmosphere at 20° C with 5.2 g of titanium tetrachloride in 25 ml of benzene. The mixture is heated under reflux for 20 hours and subsequently poured on to a mixture of ice and aqueous sodium bicarbonate solution. The mixture is stirred for 1 hour and filtered through diatomaceous earth. The aqueous phase is separated and washed successively with benzene and chloroform. The organic phases are combined and washed successively with aqueous sodium chloride solution and water, dried, filtered and evaporated under reduced pressure. There is obtained 3-[2-[4-(2-chloro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone as a red-brown viscous oil which, for the purpose of purification, is chromatographed on 100 g of silica dioxide [elution agent ethanol: methanol: concentrated ammonia (100:50:10)]. There is obtained a red-brown oil which is crystallised from acetone with the aid of active carbon. There are obtained beige-coloured crystals which are converted into the corresponding maleate (beige-coloured crystals) of melting point 232°-233° C (decomposition) by treatment with maleic acid in acetone.

reactant | 2-chloro-10,11-dihydro-dibenzo[b,f]thiepin-10-one | 8.5 g | ClC1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9ClOS
reactant | 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone | 30 g | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 5.2 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-[2-[4-(2-chloro-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | ClC1=CC2=C(SC3=C(C(=C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H24ClN3O2S
